US04396616
To a vigorously stirred suspension of 0.55 g sodium hydride in 30 ml tetrahydrofuran add over 20 min. a solution of 5.0 g t-butyl iodoacetate and 4.12 g 3-bromoperhydroazocin-2-one [Nagasawa et al., J. Med. Chem., 14 501 (1971)] dissolved in 35 ml tetrahydrofuran. After the addition is completed stir the reaction at room temperature for 1.5 hours then quench by the addition of 5-6 ml of saturated NH4Cl solution. Filter the reaction and concentrate the filtrate. Add ether to the residue, filter and wash the filtrate with H2O and brine. Dry the ether solution and concentrate to obtain 1-t-butoxycarbonylmethyl-3-bromoperhydroazocin-2-one. Prepare an analytical sample by silica gel chromatography. M.p. 107.5-109. Anal. (C13H22BrNO3). Calc: C, 48.75; H, 6.93; N, 4.37. Found: C, 48.78; H, 7.12; N, 4.26.

reactant | sodium hydride | 0.55 g | [H-].[Na+]
reactant | t-butyl iodoacetate | 5.0 g | ICC(=O)OC(C)(C)C | C6H11IO2
reactant | 3-bromoperhydroazocin-2-one | 4.12 g | BrC1C(NCCCCC1)=O | C7H12BrNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 1-t-butoxycarbonylmethyl-3-bromoperhydroazocin-2-one | C(C)(C)(C)OC(=O)CN1C(C(CCCCC1)Br)=O | C13H22BrNO3
